US08309722B2
(6bR,10aS)-3-methyl-2,3,6b,9,10,10a-hexahydro-1H-pyrido-[3′,4′:4,5]-pyrrolo[1,2,3-de]quinoxaline-8-carboxylate (ca. 18.5 g, 57 mmol), KOH (12.7 g, 226 mmol) and n-butanol are placed in a 300 ml pressure bottle and heated in an oil bath at 120° C. for 3 hours. n-butanol is removed in vacuo and 300 ml of water is added and then extracted with DCM. The DCM layers are combined and washed with brine and dried (Na2SO4). Evaporation of the solvent gives (6bR,10aS)-ethyl-3-methyl-2,3,6b,7,8,9,10,10a-octahydro-1H-pyrido-[3′,4′:4,5]-pyrrolo[1,2,3-de]quinoxaline.

reactant | (6bR,10aS)-3-methyl-2,3,6b,9,10,10a-hexahydro-1H-pyrido-[3′,4′:4,5]-pyrrolo[1,2,3-de]quinoxaline-8-carboxylate | 57 mmol, ca. 18.5 g | CN1CCN2C=3C(=CC=CC13)[C@H]1[C@@H]2CCN(C1)C(=O)[O-]
reactant | KOH | 226 mmol, 12.7 g | [OH-].[K+]
reactant | n-butanol | C(CCC)O | C4H10O
product | (6bR,10aS)-ethyl-3-methyl-2,3,6b,7,8,9,10,10a-octahydro-1H-pyrido-[3′,4′:4,5]-pyrrolo[1,2,3-de]quinoxaline | C(C)C1CN(C=2C=CC=C3C2N1[C@@H]1[C@H]3CNCC1)C | C16H23N3
